US04366158
A solution of 4-chloro-N-(8-quinolyl)butyramide (2.5 g, 0.01 mole) and benzyltriethyl ammonium chloride (0.115 g, 5 mole%) in methylene chloride (30 ml) was stirred at room temperature. A solution of 30% aqueous sodium hydroxide (10 ml) was added and the mixture was stirred for 16 hours. The reaction mixture was then diluted with methylene chloride, the organic layer was drawn off and washed with a saturated salt solution, dried over sodium sulphate and evaporated to a solid residue. The residue was recrystallized from methylene chloride/petroleum ether to afford 1-(8-quinolyl)-2-pyrrolidinone which was identical by tlc and NMR in comparison with the product of Example 1, yield 90%.

reactant | 4-chloro-N-(8-quinolyl)butyramide | 0.01 mole, 2.5 g | ClCCCC(=O)NC=1C=CC=C2C=CC=NC12 | C13H13ClN2O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
catalyst | benzyltriethyl ammonium chloride | 0.115 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-(8-quinolyl)-2-pyrrolidinone | yield 90% | N1=CC=CC2=CC=CC(=C12)N1C(CCC1)=O | C13H12N2O
